US08334287B2
4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one
The title compound, white solid, MS: m/e=290.1 (M+H+), was prepared in accordance with the general method of example 1a from 2-chloro-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-pyridine and KOH in tert-butanol.

reactant | 2-chloro-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-pyridine | ClC1=NC=CC(=C1)N1C(=NC(=C1)C#CC=1C=C(C=CC1)C)C | C18H14ClN3
reactant | KOH | [OH-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one | CC=1N(C=C(N1)C#CC=1C=C(C=CC1)C)C1=CC(NC=C1)=O | C18H15N3O
